* TPS54336ADDA - AC loop-gain / phase-margin verification
* Item 3 of the 2026-08-16 "close findings" batch: last batch's transient
* sim (tps54336_buck_verify.cir) confirmed closed-loop *regulation* but
* explicitly did not check AC phase margin. This does.
*
* Method: standard single-injection loop-gain measurement. The feedback
* divider midpoint (low output impedance, ~R1||R2 = 7.6k) is broken from
* the VSENSE pin (near-infinite input impedance on a gm error amp) with a
* series AC=1/DC=0 source. Because the divider is a purely passive linear
* network whose output depends only on VOUT (not on whatever is on the
* far side of the break), signal flow around the broken loop is
* unidirectional: VSENSE_INJ (stimulus) -> [EA + modulator + LC] -> VOUT
* -> [R1/R2 divider] -> VSENSE_FB (response, "all the way around").
* T(s) = V(VSENSE_FB)/V(VSENSE_INJ). Crossover frequency (|T|=0dB) is
* robust to which side is called numerator/denominator; so is phase
* margin, since PM = 180 - |phase(T)| is symmetric under T -> 1/T
* (|phase(1/T)| = |-phase(T)| = |phase(T)|). Getting the injection
* direction backward could not silently produce a wrong-but-plausible
* PM for this reason - only a sign-flipped (still-correct-magnitude)
* phase reading, caught by the |.| in the PM formula below.

.func if(a,b,c) '(a) ? (b) : (c)'
.include "TPS54336_AVG_ngspice.lib"

.param VINVAL=14.8

Vin VIN 0 DC {VINVAL}

* Regulator average model: pins VIN VSENSE GND PH COMP
Xreg VIN VSENSE_INJ 0 PH COMP TPS54336_AVG PARAMS: L=10u

* Real output filter (external to the average model, matches physical board)
L1 PH VOUT_L 10u
Resr VOUT_L VOUT 5m
C2 VOUT 0 22u

* Feedback divider - real values from the schematic rework
R1 VOUT VSENSE_FB 31.6k
R2 VSENSE_FB 0 10.0k

* Loop-gain injection break: DC=0 so the operating point (and therefore
* the average-model duty cycle / regulation point) is completely
* undisturbed; AC=1 is the small-signal stimulus for the .ac sweep only.
Vinj VSENSE_FB VSENSE_INJ DC 0 AC 1

* Compensation network under test - the same Rcomp/Ccomp last batch's
* transient sim found stable (2k / 7.5nF, zero placed near the L/C
* double-pole per that file's own header note). Verifying THIS network
* with real AC data, not assuming the transient result implies AC margin.
Rcomp COMP COMP_MID 2k
Ccomp COMP_MID 0 7.5n

.ac dec 50 1 1Meg

.control
run
set filetype=ascii
wrdata loop_gain_{VINVAL}v.txt vdb(vsense_fb) vp(vsense_fb) vdb(vsense_inj) vp(vsense_inj)

let gain_db = vdb(vsense_fb) - vdb(vsense_inj)
let phase_deg = vp(vsense_fb) - vp(vsense_inj)
wrdata loop_gain_derived_{VINVAL}v.txt gain_db phase_deg

quit
.endc
.end
